US07060827B2
A solution of 2-chloro-5-fluoro-N4-[2-(t-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinolin-7-yl]-4-pyrimidineamine in 40% trifluoroacetic acid/dichloromethane was stirred at rt for 30 min. Removal of the solvent left an oily residue which was suspended in water, made basic with NaHCO3, and extracted with ethyl acetate. Purification by column chromatography over silica gel provided 2-chloro-5-fluoro-N4-(1,2,3,4-tetrahydroisoquinolin-7-yl)-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.04 (d, 1H, J=3.0 Hz), 7.37 (dd, 1H, J=2.4 and 8.4 Hz), 7.27 (d, 1H, J=1.5 Hz), 7.11 (d, 1H, J=8.4 Hz), 6.92 (s, 1H), 4.04 (s, 2H), 3.15 (t, 2H, J=6.0 Hz), 2.79 (t, 2H, J=6.0 Hz); 19F NMR (282 MHz, CDCl3): −44648; LCMS: purity: 97%; MS (m/e): 279(MH+).

reactant | 2-chloro-5-fluoro-N4-[2-(t-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinolin-7-yl]-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C)F | C18H20ClFN4O2
solvent | trifluoroacetic acid dichloromethane | FC(C(=O)O)(F)F.ClCCl
product | 2-chloro-5-fluoro-N4-(1,2,3,4-tetrahydroisoquinolin-7-yl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C2CCNCC2=C1)F | C13H12ClFN4
